US08048897B2
(1) Synthesis of [2R,3S,4R,5R]-2,3,4-Trisbenzyloxy-5-benzyloxymethyl-1-[3-(4-methoxybenzyl)phenyl]cyclo-hexanol
To a solution of 3-(4-methoxybenzyl)-1-bromobenzene (155 mg, 0.559 mmol) in THF (0.80 mL), an n-butyllithium 2.44 M hexane solution (0.23 mL, 0.559 mmol) was added dropwise at −78° C. and the mixture solution was stirred for 25 minutes. Then, a solution of 2,3,4-tribenzyloxy-5-(benzyloxy-methyl)cyclohexanone (200 mg, 0.373 mmol) in THF (0.70 mL) was added dropwise thereto and the reaction mixture was stirred for 75 minutes. To the reaction mixture was added a saturated ammonium chloride aqueous solution and the mixture was extracted with ethyl acetate, and the organic layer was washed with a saturated sodium chloride aqueous solution, and then dried over anhydrous magnesium sulfate. The solvent was concentrated and the obtained residue was purified by silica gel chromatography [developing solution=ethyl acetate:n-hexane (2:5)] to obtain the title compound (80 mg, 27%) as a mixture of 1R-isomer and 1S-isomer.

reactant | 3-(4-methoxybenzyl)-1-bromobenzene | 0.559 mmol, 155 mg | COC1=CC=C(CC=2C=C(C=CC2)Br)C=C1 | C14H13BrO
reactant | n-butyllithium | 0.559 mmol, 2.44 M, 0.23 mL | C(CCC)[Li]
reactant | 2,3,4-tribenzyloxy-5-(benzyloxy-methyl)cyclohexanone | 0.373 mmol, 200 mg | C(C1=CC=CC=C1)OC1C(CC(C(C1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)=O | C35H36O5
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 0.80 mL | C1CCOC1 | C4H8O
solvent | THF | 0.70 mL | C1CCOC1 | C4H8O
product | [2R,3S,4R,5R]-2,3,4-Trisbenzyloxy-5-benzyloxymethyl-1-[3-(4-methoxybenzyl)phenyl]cyclo-hexanol | 80 mg, 27% | C(C1=CC=CC=C1)O[C@H]1C(C[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)(O)C1=CC(=CC=C1)CC1=CC=C(C=C1)OC | C49H50O6
